US06080773
To a stirred solution of 1.0 g of 3-[2-(2-Hydroxy-4-pentyl)phenyl]-1,2-benzisoxazole and 1.0 g of triphenylphosphine in 20 ml of tetrahydrofuran at 0° C. was added 0.56 ml of diethyl azodicarboxylate followed by dropwise addition of 1.36 ml of diphenylphosphoryl azide. The solution was stirred at 0° C. for 1 h then warmed to room temperature and stirred a further 2 h. The reaction was quenched with 50 ml of water and extracted with 100 ml then 50 ml of dichloromethane. The combined organic fractions were dried over sodium sulfate and evaporated to give crude product, which was purified by chromatography on silica gel eluting with 7% ethyl acetate in hexane, affording 0.65 g of 3-[2-(2-Azido-4-pentenyl)phenyl]-1,2-benzisoxazole, 1H-NMR (200 MHz, CDCl3) d 5.68 (CH=CH2).

reactant | 3-[2-(2-Hydroxy-4-pentyl)phenyl]-1,2-benzisoxazole | 1.0 g | OC(C)CC(C)C1=C(C=CC=C1)C1=NOC2=C1C=CC=C2 | C18H19NO2
reactant | triphenylphosphine | 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.56 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 1.36 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[2-(2-Azido-4-pentenyl)phenyl]-1,2-benzisoxazole | 0.65 g | N(=[N+]=[N-])C(CC1=C(C=CC=C1)C1=NOC2=C1C=CC=C2)CC=C | C18H16N4O
